US06518306B1
4-(4-Bromophenyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)-2-cylohexen-1-one
To a solution of 2-(4-bromophenyl)-2-(3-cyclopentyloxy-4-methoxyphenyl) acetaldehyde (2.60 g, 6.7 mmol) in THF (10 ml) was added methyl vinyl ketone (670 ul, 8.4 mmol). The solution was stirred at −10° C. and 10% ethanolic potassium hydroxide (480 ul) was added slowly. After 0.5 h the reaction mixture was warmed to room temperature and stirred for additional 1 h. Water and ethyl acetate were added and the mixture was neutralized with 3N hydrochloric acid. The layers were separated and the aqueous layer washed twice with ethyl acetate. The combined organic extract was washed with water then brine, dried (sodium sulfate) and evaporated. Purification by flash chromatography (silica gel, 12% ethyl acetate/82% hexane) provided the title compound as a pale white waxy solid (1.39 g, 47%). MS (m/e): 441 [(M+1)+], 443 [(M+3)+].

reactant | 2-(4-bromophenyl)-2-(3-cyclopentyloxy-4-methoxyphenyl) acetaldehyde | 6.7 mmol, 2.60 g | BrC1=CC=C(C=C1)C(C=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C20H21BrO3
reactant | methyl vinyl ketone | 8.4 mmol, 670 ul | C(=C)C(=O)C | C4H6O
reactant | potassium hydroxide | 480 ul | [OH-].[K+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 4-(4-Bromophenyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)-2-cylohexen-1-one | BrC1=CC=C(C=C1)C1(C=CC(CC1)=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C24H25BrO3
